US05117009
5-(9-(9-Fluorenylmethyloxycarbonyl)aminoxanthen-2-oxy)valeric Acid
A solution of p-toluenesulfonic acid (30 mg, 0.015 mmol) in glacial acetic acid (3 mL) was added dropwise at 25° C. over 15 minutes to a solution of 5-(9-hydroxyxanthen-2-oxy)valeric acid (0.2 g, 0.64 mmol) prepared as described above and Fmoc-NH2 (184 mg, 0.76 mmol) in glacial acetic acid (12 mL). This mixture was stirred continuously for 14 hours, filtered, and the resultant white solid washed with water (3×5 mL) and n-hexane (2×5 mL). The solid was dried in vacuo over P2O5 at 25° C. for 6 hours. Yield: 200 mg (69%), TLC-pure Rf : 0.53 EtOAc/MeOH 10:2. 1H-NMR (CDCl3, 300 MHz) δ7.76 (d, 7.4 Hz 2H), 7.59 (d, 7.4, 2H), 7.40 (t,J=7.4, 2H), 7.31 (t,J=7.4 2H), 4.69 (s, broad, 1H), 4.40 (d, J=6.9, 2H), 4.24 (t,J=6.9, 1H).

reactant | p-toluenesulfonic acid | 0.015 mmol, 30 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 5-(9-hydroxyxanthen-2-oxy)valeric acid | 0.64 mmol, 0.2 g | OC1C2=CC=CC=C2OC=2C=CC(=CC12)OCCCCC(=O)O | C18H18O5
reactant | Fmoc-NH2 | 0.76 mmol, 184 mg | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N | C15H13NO2
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 12 mL | C(C)(=O)O | C2H4O2
product | 5-(9-(9-Fluorenylmethyloxycarbonyl)aminoxanthen-2-oxy)valeric Acid | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC1C2=CC=CC=C2OC=2C=CC(=CC12)OCCCCC(=O)O | C33H29NO6
